US08871796B2
1-(tetrahydrofuran-2-yl)methanamine (12.3 mgs, 0.121 mmol, 1.2 equiv) followed by Si-bound cyanoborohydride (322 mg, 0.303 mmol, 3.0 equiv, 0.94 mmol/g) were added to N-(2-{3-[1-ethyl-5-(4-formylphenoxy)-1H-pyrazol-3-yl]phenyl}propan-2-yl)-2,2,2-trifluoroethanesulfonamide (50.0 mg, 0.101 mmol, 1 equiv) stirring in DMF (with 0.05% acetic acid v:v, 0.5 mL). The resulting mixture was stirred at 22° C. for 16 hours then filtered through a 0.45 micron nylon syringe filter and flushed with methanol. The filtrate was purified by reversed phase HPLC (0-95% acetonitrile:water with 0.025% TFA v:v). Pure fractions were identified, combined, basified with saturated aqueous sodium bicarbonate and extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride and dried over anhydrous magnesium sulfate. The drying agent was filtered away and the filtrate was concentrated in vacuo to give N-(2-{3-[1-ethyl-5-(4-{[(tetrahydrofuran-2-ylmethyl)amino]methyl}phenoxy)-1H-pyrazol-3-yl]phenyl}propan-2-yl)-2,2,2-trifluoroethanesulfonamide. Calc'd (M+1) 581.2. Found: 581.2

reactant | 1-(tetrahydrofuran-2-yl)methanamine | 0.121 mmol, 12.3 mgs, 1.2 equiv | O1C(CCC1)CN | C5H11NO
reactant | N-(2-{3-[1-ethyl-5-(4-formylphenoxy)-1H-pyrazol-3-yl]phenyl}propan-2-yl)-2,2,2-trifluoroethanesulfonamide | 0.101 mmol, 50.0 mg, 1 equiv | C(C)N1N=C(C=C1OC1=CC=C(C=C1)C=O)C=1C=C(C=CC1)C(C)(C)NS(=O)(=O)CC(F)(F)F | C23H24F3N3O4S
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | N-(2-{3-[1-ethyl-5-(4-{[(tetrahydrofuran-2-ylmethyl)amino]methyl}phenoxy)-1H-pyrazol-3-yl]phenyl}propan-2-yl)-2,2,2-trifluoroethanesulfonamide | C(C)N1N=C(C=C1OC1=CC=C(C=C1)CNCC1OCCC1)C=1C=C(C=CC1)C(C)(C)NS(=O)(=O)CC(F)(F)F | C28H35F3N4O4S
